US08748627B2
1-(5-bromothien-2-yl)-2,2,2-trifluoroethanol
To a solution of 2-bromo-2-thiophenecarboxaldehyde (2.1 g, 0.01 mol) and trimethyl(trifluoromethyl)silane (1.7 g, 0.012 mol) in dry tetrahydrofuran at 0° C. was added tetrabutylammonium fluoride (10 mL of 1.0 M tetrahydrofuran solution, 0.01 mol) drop wise. The mixture was warmed to room temperature and stirred for 36 hours. The reaction was then quenched with 6N HCl and stirred for 30 minutes, and then extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated to give 3.3 g of crude as a dark brown oil, which was purified through a plug of silica gel eluting with an ethyl acetate and hexane mixture (1:1) to give 2.56 g of the title compound as a yellow liquid (98% yield), 1H NMR (300 MHz, CDCl3) δ ppm 2.78 (d, J=5.15 Hz, 1H) 5.14-5.27 (m, 1H) 6.95 (d, J=3.68 Hz, 1H) 7.00 (d, J=3.68 Hz, 1H),

reactant | 2-bromo-2-thiophenecarboxaldehyde | 0.01 mol, 2.1 g | BrC1(SC=CC1)C=O | C5H5BrOS
reactant | trimethyl(trifluoromethyl)silane | 0.012 mol, 1.7 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 0.01 mol, 1.0 M, 10 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(5-bromothien-2-yl)-2,2,2-trifluoroethanol | 2.56 g, 98% yield | BrC1=CC=C(S1)C(C(F)(F)F)O | C6H4BrF3OS
